US08912210B2
Step A: 5-Bromo-6-methyl-3-nitro-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one
A mixture of 5-bromo-6-methylpyridin-2(1H)-one (10.0 g, 53.2 mmol), cesium carbonate (20.8 g, 63.8 mmol), and 2,2,2-trifluoroethyl methanesulfonate (18.5 g, 80.0 mmol) in dioxane (266 mL) was heated at 66° C. for 1.5 h. The mixture was allowed to cool to 23° C., then diluted with dichloromethane (266 mL). Nitronium tetrafluoroborate (21.2 g, 160 mmol) was added and the resulting mixture was stirred for 16 h. The mixture was then partitioned between half-saturated aqueous sodium chloride solution (500 mL) and ethyl acetate (1 L). The organic layer was washed with brine, dried over sodium sulfate and concentrated. The residue was purified by flash column chromatography on silica gel, eluting with hexane initially, grading to 50% EtOAc in hexane to provide the title compound. MS: m/z=315.0 (M+1).

reactant | 5-bromo-6-methylpyridin-2(1H)-one | 53.2 mmol, 10.0 g | BrC=1C=CC(NC1C)=O | C6H6BrNO
reactant | cesium carbonate | 63.8 mmol, 20.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2,2-trifluoroethyl methanesulfonate | 80.0 mmol, 18.5 g | CS(=O)(=O)OCC(F)(F)F | C3H5F3O3S
reactant | Nitronium tetrafluoroborate | 160 mmol, 21.2 g | F[B-](F)(F)F.O=[N+]=O
solvent | dioxane | 266 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 266 mL | ClCCl | CH2Cl2
product | 5-Bromo-6-methyl-3-nitro-1-(2,2,2-trifluoroethyl)pyridin-2(1H)-one | BrC=1C=C(C(N(C1C)CC(F)(F)F)=O)[N+](=O)[O-] | C8H6BrF3N2O3
